US07173031B2
G) 4-(2-Fluoro-4-nitrophenoxy)-6-methoxy-5-methylpyrrolo[2,1-f][1,2,4]triazine
To a solution of 4-(2-fluoro-4-nitrophenoxy)-5-methylpyrrolo[2,1-f][1,2,4]triazin-6-ol (52 mg, 0.17 mmol) in DMF (2 mL) was added Cs2CO3 (65 mg, 0.2 mmol) and the mixture was stirred at RT for 10 minutes. A solution of methyl iodide in DMF (0.2 mL, 0.2 mmol, 1 M) was added and the reaction solution was stirred at RT for 2 h. The reaction was quenched with EtOAc (5 mL) and H2O (5 mL). The organic layer was separated, dried with sodium sulfate and concentrated in vacuo to give the title compound (35 mg, 65%) as a yellow solid.

reactant | 4-(2-fluoro-4-nitrophenoxy)-5-methylpyrrolo[2,1-f][1,2,4]triazin-6-ol | 0.17 mmol, 52 mg | FC1=C(OC2=NC=NN3C2=C(C(=C3)O)C)C=CC(=C1)[N+](=O)[O-] | C13H9FN4O4
reactant | Cs2CO3 | 0.2 mmol, 65 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | methyl iodide | CI | CH3I
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | DMF | 0.2 mmol, 1 M, 0.2 mL | CN(C)C=O | C3H7NO
product | 4-(2-Fluoro-4-nitrophenoxy)-6-methoxy-5-methylpyrrolo[2,1-f][1,2,4]triazine | 35 mg, 65% | FC1=C(OC2=NC=NN3C2=C(C(=C3)OC)C)C=CC(=C1)[N+](=O)[O-] | C14H11FN4O4
